.SUBCKT dta114eet1 1 2 3 
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* MODEL FORMAT: PSpice
* BRT macro model
* External node 
* Node 1 -> BRT_C
* Node 2 -> BRT_B
* Node 3 -> BRT_E
QOUT 1 4 3 qmodel
R1   2 4 10000
R2   4 3 10000
.MODEL qmodel pnp
+IS=1.45353e-14 BF=201.578 NF=1.0689 VAF=70.4157
+IKF=0.0937743 ISE=2.69024e-15 NE=1.8994 BR=2.30273
+NR=1.09444 VAR=176.711 IKR=0.0680789 ISC=9.08823e-14
+NC=2.62106 RB=9.97124 IRB=0.2 RBM=9.97124
+RE=0.0654023 RC=1.54896 XTB=0.103329 XTI=3.04909 EG=1.206
+CJE=2.55801e-12 VJE=0.746499 MJE=0.333828 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=3.07272e-12
+VJC=1.04014 MJC=0.170789 XCJC=0.9 FC=0.5
.ENDS