.SUBCKT emc5dxv5t1 1 2 3 4 5 6
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on May 29, 03
* MODEL FORMAT: PSpice
* BRT macro model
* External node 
* Node 1 -> BRT_E2
* Node 2 -> BRT_B2
* Node 3 -> BRT_E1
* Node 4 -> BRT_C1
* Node 5 -> BRT_B1
* Node 6 -> BRT_C2
*
XQ1  4 5 3 emc5dxv5t1-pnp
XQ2  6 2 1 emc5dxv5t1-npn
.ENDS
*
.SUBCKT emc5dxv5t1-npn 1 2 3 
* MODEL FORMAT: PSpice
* BRT macro model
* External node 
* Node 1 -> BRT_C
* Node 2 -> BRT_B
* Node 3 -> BRT_E
QOUT 1 4 3 qmodel
R1   2 4 47000
R2   4 3 47000
.MODEL qmodel npn
+IS=1.7861e-13 BF=307.791 NF=0.849972 VAF=2.91056
+IKF=0.00257333 ISE=1e-16 NE=1.06468 BR=6.68943
+NR=0.867252 VAR=76.283 IKR=0.011409 ISC=1.01236e-13
+NC=1.93099 RB=2.27483 IRB=0.2 RBM=2.27483
+RE=1.11739 RC=0.13732 XTB=1.19366 XTI=1 EG=1.05
+CJE=1.31368e-11 VJE=0.400426 MJE=0.849854 TF=1.00026e-09
+XTF=1 VTF=10 ITF=0.01 CJC=1.3018e-12
+VJC=0.958544 MJC=0.4283 XCJC=0.9 FC=0.5
.ENDS
*
.SUBCKT emc5dxv5t1-pnp 1 2 3 
* MODEL FORMAT: PSpice
* BRT macro model
* External node 
* Node 1 -> BRT_C
* Node 2 -> BRT_B
* Node 3 -> BRT_E
QOUT 1 4 3 qmodel
R1   2 4 4700
R2   4 3 10000
.MODEL qmodel pnp
+IS=8.87322e-14 BF=264.542 NF=1.39765 VAF=67.3001
+IKF=0.117917 ISE=8.14784e-13 NE=2.48 BR=1.553
+NR=1.4584 VAR=100.596 IKR=0.0979992 ISC=1.00195e-13
+NC=1.98057 RB=10.0414 IRB=0.2 RBM=10
+RE=0.118914 RC=1.31322 XTB=0.632248 XTI=2.98697 EG=1.05
+CJE=1.02643e-11 VJE=0.749393 MJE=0.330682 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=1.08901e-11
+VJC=0.516906 MJC=0.514706 XCJC=0.9 FC=0.5
.ENDS

